US04886809
2.7 Grams of N-(β-bromopropionyl)-p-[4-(N-methylacetylamino)-1-piperidyl]aniline and 28 g of pulverized aluminum chloride were suspended in 50 ml of carbon disulfide, then the mixture was refluxed by heating for 4 hours. The reaction mixture was poured into ice-water, then the precipitates formed were collected and washed with water, and with diethyl ether, then this substance was converted into a hydrobromide and recrystallized from methanol-diethyl ether to yield 0.8 g of 6-[4-(N-methylacetylamino)-1-piperidyl]-3,4-dihydrocarbostyril. Light yellow needle-like crystals.

reactant | N-(β-bromopropionyl)-p-[4-(N-methylacetylamino)-1-piperidyl]aniline | BrCCC(=O)NC1=CC=C(C=C1)N1CCC(CC1)NC(CC)=O | C17H24BrN3O2
reactant | aluminum chloride | 28 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 50 ml | C(=S)=S | CS2
product | 6-[4-(N-methylacetylamino)-1-piperidyl]-3,4-dihydrocarbostyril | 0.8 g | CCC(=O)NC1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C17H23N3O2
